US04810283
18 ml (0.16 mole) of t-butyl nitrite are added dropwise to 17.1 g (0.05 mole) of 5-amino-4-nitro-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole (compare DE-OS (German Published Specification) No. 3,402,308), supra, in 75 ml of bromoform in the course of 15 minutes, with stirring, whereupon the temperature of the reaction mixture rises to 50° C. When the addition has ended, the mixture is stirred at the reflux temperature for a further hour and concentrated in vacuo. 18.0 g (89% of theory) of 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-nitro-5-bromo-pyrazole of melting point 96° C. are obtained.

reactant | t-butyl nitrite | 0.16 mole, 18 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-4-nitro-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.05 mole, 17.1 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-] | C10H5Cl2F3N4O2
reactant | bromoform | 75 ml | C(Br)(Br)Br | CHBr3
product | 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-nitro-5-bromo-pyrazole | 18.0 g, 89% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1Br)[N+](=O)[O-] | C10H3BrCl2F3N3O2
